US07888374B2
N-(4-amino-5-cyano-6-ethoxypyridin-2-yl)-2-(2,3-dimethoxyphenyl)acetamide
To 67 mg (0.34 mmol) of (2,3-dimethoxyphenyl)acetic acid in 1 mL of CH2Cl2 was added 32 μL (0.37 mmol) of oxalyl chloride. The solution was stirred at ambient temperature for 20 minutes then added to a solution of 60 mg (0.28 mmol) of 4,6-diamino-2-ethoxy-nicotinonitrile in 0.5 mL of pyridine. The mixture was complete within 5 minutes though some diaminopyridine remained. The solvent was removed under reduced pressure, then the residue was taken up in 10 mL of ethyl acetate and extracted with water (2×5 mL), saturated NaHCO3(aq.) (1×5 mL), and brine (1×5 mL), dried over MgSO4, filtered, and concentrated to an oil. This was recrystallized from 8 mL of methanol to provide 35 mg (35%) of white crystals. 1H NMR (300 MHz, d6-DMSO) δ 10.22 (s, 1H), 7.15 (s, 1H), 6.97 (m, 2H), 6.88 (s, 2H), 6.81 (dd, 1H, J=7.1, 2.0 Hz), 4.35 (q, 2H, J=7.1 Hz), 3.79 (s, 3H), 3.71 (s, 2H), 3.68 (s, 3H), 1.31 (t, 3H, J=7.1 Hz); MS (ESI) m/e=327 (M−Et+H)+, 357 (M+H)+.

reactant | (2,3-dimethoxyphenyl)acetic acid | 0.34 mmol, 67 mg | COC1=C(C=CC=C1OC)CC(=O)O | C10H12O4
reactant | oxalyl chloride | 0.37 mmol, 32 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,6-diamino-2-ethoxy-nicotinonitrile | 0.28 mmol, 60 mg | NC1=CC(=NC(=C1C#N)OCC)N | C8H10N4O
reactant | diaminopyridine | NC=1C(=NC=CC1)N | C5H7N3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-amino-5-cyano-6-ethoxypyridin-2-yl)-2-(2,3-dimethoxyphenyl)acetamide | 35 mg, 35% | NC1=CC(=NC(=C1C#N)OCC)NC(CC1=C(C(=CC=C1)OC)OC)=O | C18H20N4O4
